US05262540
3-[4-[(4,5-Diphenyl-2-oxazolyl)methoxy]phenyl]propanoic Acid
Methyl 3-[4-[(4,5-diphenyl-2-oxazolyl)methoxy]phenyl]propanoate was hydrolyzed with aqueous sodium hydroxide according to the procedure of Example 18 to provide the title compound, m.p. 124°-127° C.

reactant | Methyl 3-[4-[(4,5-diphenyl-2-oxazolyl)methoxy]phenyl]propanoate | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC | C26H23NO4
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-[4-[(4,5-Diphenyl-2-oxazolyl)methoxy]phenyl]propanoic Acid | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)COC1=CC=C(C=C1)CCC(=O)O | C25H21NO4
